US06949542B2
(2-{3-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J33) (152 mg, 0.5 mmol) and 3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K21) (169 mg, 0.5 mmol) according to the general procedure M. Obtained as a light yellow foam (211 mg, 74%).

reactant | (2-amino-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 152 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC)C(F)(F)F)N)=O | C14H19F3N2O2
reactant | 3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.5 mmol, 169 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O | C21H23NO3
product | (2-{3-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O)=O | C31H32F3N3O4
